US07435837B2
(±)-[(N-methyl-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.137 g, 47%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.125 g, 0.278 mmol) and methylamine (0.086 g, 2.78 mmol). mp 190-192° C.

reactant | (±)-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.278 mmol, 0.125 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)Cl)Cl | C22H18Cl2O4S
reactant | methylamine | 2.78 mmol, 0.086 g | CN | CH5N
product | N-methyl-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)Cl)Cl | C16H15Cl2NO
